US06576626B2
(3-Amino-2-fluoro-1-methylpropyl)phosphinic Acid
To an ice bath cooled solution of ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(diethoxymethyl)phosphinate (1.6 g, 5.3 mmol) in THF (15 ml) was added 1 M BH3-THF (12.3 mL, 12.3 mmol) while under an argon atmosphere. After 10 minutes, the solution was heated to reflux for 3 h. The solution was cooled to room temperature and 6 N HCl (100 mL) was added dropwise. The THF was removed by rotovap and another portion of 6 N HCl (100 mL) was added. The mixture was refluxed for 3 h. The solution was cooled, evaporated, co-evaporated with water and then with etanol. The residue was purified ion exchange chromatography (DOWEX® 50WX-8-200, H+ form, 3.5×4.0 cm). The ion exchange resin was prewashed with 2:1 methanol/water. The crude product dissolved in 1:1 methanol/water was loaded onto the column and washed with 1:1 methanol/water. The eluent was changed to 3:1 methanol/concentrated ammonium hydroxide. The appropriate fractions were combined and evaporated to give 150 mg (15%) of a diastereomeric mixture of (3-amino-2-fluoro-1-methylpropyl)phosphinic acid as an oil. Data: 1H NMR (400 MHz, D2O) δ6.2-7.8 (m, 1H), 4.8-5.2 (m, 1H), 3.2-3.5 (m, 2H), 1.8-2.2 (m, 1H), 1.0-1.2 (m, 3H); MS: m/z=156 (M+H)+.

reactant | ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(diethoxymethyl)phosphinate | 5.3 mmol, 1.6 g | NC(C(C(C)P(OCC)(=O)C(OCC)OCC)F)=O | C11H23FNO5P
reactant | BH3-THF | 12.3 mmol, 1 M, 12.3 mL | B.C1CCOC1
reactant | HCl | 6 N, 100 mL | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (3-Amino-2-fluoro-1-methylpropyl)phosphinic Acid | 150 mg, 15% | NCC(C(C)P(O)=O)F | C4H11FNO2P
